US06514971B1
A solution of 4-chloro-6-methoxy-7-(4-pyridylmethoxy)cinnoline hydrochloride (268 mg, 0.71 mmol), (prepared as described for the starting material in Example 10), and 2-fluoro-5-hydroxy-4-methylaniline, (109 mg, 0.77 mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (6 ml) was heated at reflux for 4 hours. After dilution with isopropanol, the solid was filtered off, washed with isopropanol followed by ether to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)cinnoline hydrochloride (92 mg, 29%).

reactant | 4-chloro-6-methoxy-7-(4-pyridylmethoxy)cinnoline hydrochloride | 0.71 mmol, 268 mg | Cl.ClC1=CN=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.77 mmol, 109 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | 2-pentanol | 6 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)cinnoline hydrochloride | 92 mg, 29% | Cl.FC1=C(NC2=CN=NC3=CC(=C(C=C23)OC)OCC2=CC=NC=C2)C=C(C(=C1)C)O | InChI=1S/C22H19FN4O3.ClH/c1-13-7-16(23)18(9-20(13)28)26-19-11-25-27-17-10-22(21(29-2)8-15(17)19)30-12-14-3-5-24-6-4-14;/h3-11,28H,12H2,1-2H3,(H,26,27);1H
